US07320995B2
3-ethoxycarbonyl-2-phenyl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole
To a solution of 1-amino-pyrrolidine-2-one hydrochloride (3.8 g, 27.8 mmol) (WO 02/094833) add ethylbenzoylacetate (4.3 mL, 25 mmol) followed by pyridine (10 mL) at room temperature under nitrogen. Stir the mixture at room temperature for 20 hours and then, dilute with water (50 mL) and extract with toluene (2×50 mL). Dry the combined organic layers (MgSO4) and concentrate in vacuo to give a brown oil, 6.23 g, 82% yield, and treat with NaOEt (freshly prepared, 3.1 g, 45.4 mmol, 2 equiv) in toluene at 120° C. for 8 hours. Cool the mixture to room temperature and add water (100 mL) and concentrated HCl until a pH of 4 is reached. Extract the mixture with EtOAc (3×200 mL) and dry (MgSO4) the combined organic layers and concentrate in vacuo. Purify the residue in a biotage system (eluent:CH2Cl2/MeOH 40:1) to obtain a yellow solid, 1.8 g, 36% yield. MS(ES+): m/z=257.1 (M+H)+

reactant | 1-amino-pyrrolidine-2-one hydrochloride | 27.8 mmol, 3.8 g | Cl.NN1C(CCC1)=O
reactant | ethylbenzoylacetate | 25 mmol, 4.3 mL | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | NaOEt | CC[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-ethoxycarbonyl-2-phenyl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 82% yield | C(C)OC(=O)C1=C2N(N=C1C1=CC=CC=C1)CCC2 | C15H16N2O2
